US07420001B2
To 5-formyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester (430 mg, 1.56 mmol) was added 8 mL of THF, and sodium cyanoborohydride (117 mg, 1.87 mmol) was added in one portion. The solution was stirred at room temperature for 1 h and then placed in a 65° C. oil bath overnight. The solvent was removed under vacuum and water was added. The mixture was extracted with ethyl acetate. Removal of the solvent gave the crude product, which was purified by column chromatography to give 70 mg of 4-hydroxy-3,5-dimethyl-benzofuran-2-carboxylic acid tert-butyl ester as a white solid.

reactant | 5-formyl-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 1.56 mmol, 430 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)C=O)O | C15H16O5
reactant | sodium cyanoborohydride | 1.87 mmol, 117 mg | C(#N)[BH3-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-hydroxy-3,5-dimethyl-benzofuran-2-carboxylic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)C)O | C15H18O4
